US06403601B1
(c) 3-(Isopropoxy)-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid
A mixture of 3-(isopropoxy)-1-naphthalenecarboxylic acid (0.38 g, 1.65 mmol) and 10% Pd/C (0.10 g) in HOAc (20 mL) was hydrogenated on Parr apparatus at 60° C. and 50 psi for 13 h. After filtration through diatomaceous earth the solvent was removed in vacuo, water was added and the precipitate was extracted into EtOAc. The combined organic layers were dried (MgSO4), filtered and concentrated to yield the title acid as a light yellow oil (0.39 g, 100%). 1H NMR (CDCl3) δ 7.39 (d, 1H), 6.83 (d, 1H), 4.55 (m, 1H), 3.02 (s, 2H), 2.80 (s, 2H), 1.77 (m, 4H), 1.34 (s, 3H), 1.32 (s, 3H); MS m/z 233 (M−H).

reactant | 3-(isopropoxy)-1-naphthalenecarboxylic acid | 1.65 mmol, 0.38 g | C(C)(C)OC=1C=C(C2=CC=CC=C2C1)C(=O)O | C14H14O3
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 0.10 g | [Pd] | Pd
product | 3-(Isopropoxy)-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 0.39 g, 100% | C(C)(C)OC=1C=C(C=2CCCCC2C1)C(=O)O | C14H18O3
